US07598391B2
{[2-(3,3-Dicyclohexyl-ureido)-thiazole-4-carbonyl]-amino}-acetic acid methyl ester
Prepared in 30% yield (76 mg) as described in general procedure (K) from 2-(3,3-dicyclohexylureido)-thiazole-4-carboxylic acid (210 mg, 0.6 mmol) and glycine methyl ester (HCl salt, 75 mg, 0.6 mmol).

reactant | 2-(3,3-dicyclohexylureido)-thiazole-4-carboxylic acid | 0.6 mmol, 210 mg | C1(CCCCC1)N(C(NC=1SC=C(N1)C(=O)O)=O)C1CCCCC1 | C17H25N3O3S
reactant | glycine methyl ester | 0.6 mmol, 75 mg | COC(CN)=O | C3H7NO2
product | {[2-(3,3-Dicyclohexyl-ureido)-thiazole-4-carbonyl]-amino}-acetic acid methyl ester | 30% yield | COC(CNC(=O)C=1N=C(SC1)NC(=O)N(C1CCCCC1)C1CCCCC1)=O | C20H30N4O4S
